US04800201
(ii) Preparation of 5-methyl-6-(4-pyridazinyl)-2H-1,4-thiazin-3(4H)-one
5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-1,4-dihydro-4-pyridazinyl]-2H-1,4-thiazin-3(4H)-one (2.4 g) was well mixed with sulfur sublimed (10.7 g) in a mortar and the mixture was stirred at 140° C. for 1.5 hours and then was cooled to ambient temperature. The obtained solid was ground and was extracted with methanol. Methanol was removed under reduced pressure. The residue was dissolved in 50 ml of 2N hydrochloric acid. The insoluble matter was removed by filtration and the filtrate was adjusted to pH 7.2 by 2N aqueous sodium hydroxide. The resulting precipitates were removed by filtration. The filtrate was extracted with chloroform (20 ml×5 times) and the extract was evaporated to dryness. After combined with the above solid, the residue was recrystallized from methanol to give the titled compound (0.3 g, yield 23%) as pale yellow plates.

reactant | 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-1,4-dihydro-4-pyridazinyl]-2H-1,4-thiazin-3(4H)-one | 2.4 g | CC=1NC(CSC1C1C=NN(C=C1)C(=O)OCC(Cl)(Cl)Cl)=O | C12H12Cl3N3O3S
reactant | sulfur | [S] | S
product | 5-methyl-6-(4-pyridazinyl)-2H-1,4-thiazin-3(4H)-one | 0.3 g, yield 23% | CC=1NC(CSC1C1=CN=NC=C1)=O | C9H9N3OS
